### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): normal subgroup objects

### PR DESCRIPTION
**Pull request by chrisflav**
We define normal subgroups of group objects in a cartesian monoidal category as
a predicate on morphisms. A morphism `φ : H ⟶ G` of group objects is normal if it is mono, a
monoid morphism and the conjugation map `(g, h) ↦ g * h * g⁻¹` factors through `φ`.

Co-authored by: Thomas Browning

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean [hunk 1]
```diff
@@ -417,6 +421,22 @@ variable (M) in
 lemma MonObj.mul_eq_mul : μ = fst M M * snd _ _ :=
   show _ = _ ≫ _ by rw [lift_fst_snd, Category.id_comp]
 
+/-- A monoid morphism `f : M ⟶ N` induces a monoid homomorphism `M(X) →* N(X)` for every `X`. -/
+@[to_additive (attr := simps!)
+/-- An additive monoid morphism `f : M ⟶ N` induces an additive monoid homomorphism
+`M(X) →+ N(X)` for every `X`. -/]
+def IsMonHom.monoidHom (f : M ⟶ N) [IsMonHom f] (X : C) : (X ⟶ M) →* (X ⟶ N) :=
+  ((yonedaMon.map (Mon.ofHom f)).app (.op X)).hom
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean]: Would not it be better if `IsMonHom.monoidHom` was defined first, and `yonedaMon` defined in terms of `IsMonHom.monoidHom`?

Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean]: I have changed it as you suggested. Thanks!

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean [hunk 2]
```diff
@@ -62,6 +62,10 @@ instance : IsMonHom (toUnit M) where
 instance : IsMonHom η[M] where
   mul_hom := by simp [toUnit_unique (ρ_ (𝟙_ C)).hom (λ_ (𝟙_ C)).hom]
 
+-- The general `(f : 𝟙 C ⟶ X) : Mono f` instance has a bad discrimination tree key.
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mon.lean]:
```suggestion
-- The general `(f : 𝟙_ C ⟶ X) : Mono f` instance has a bad discrimination tree key.
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean [hunk 3]
```diff
@@ -0,0 +1,100 @@
...
+/-- If `φ` is mono, it is a normal group homomorphism if and only if for all `X` the image of
+`H(X)` in `G(X)` is a normal subgroup. -/
+@[to_additive]
+theorem normal_iff_normal_monoidHom [IsMonHom φ] [Mono φ] :
+    Normal φ ↔ ∀ (X : C), (monoidHom φ X).range.Normal := by
+  rw [isNormalHom_iff]
+  refine ⟨?_, ?_⟩
+  · intro ⟨ψ, hψ⟩ X
+    constructor
+    rintro - ⟨x, rfl⟩ z
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean:88]:
```suggestion
    rintro _ ⟨x, rfl⟩ z
```
Seems to do exactly the same thing, what is the purpose of the `-`?

**Review by dagurtomas — COMMENTED** [review]
LGTM, but is this standard terminology? I assume you are going to apply it in the context of something like normal subgroup schemes. But is there a reference in this generality? How does it relate to [normal subobjects](https://ncatlab.org/nlab/show/normal+subobject) or normal monomorphisms?

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean:88]: With `-` the variable is deleted from the context instead of adding an anonymous one, which makes the infoview slightly tidier.

**Comment by chrisflav** [comment]
> LGTM, but is this standard terminology? I assume you are going to apply it in the context of something like normal subgroup schemes. But is there a reference in this generality? How does it relate to [normal subobjects](https://ncatlab.org/nlab/show/normal+subobject) or normal monomorphisms?

I don't know if it is standard terminology. Indeed, the case of interest is normal subgroup schemes, where this is the correct definition modulo an `IsImmersion` or `IsClosedImmersion` assumption (but I think we want to rather assume that when needed instead of baking it into the definition). A reference in this context is e.g. Definition 27.3 of Görtz-Wedhorn, Algebraic Geometry 2.

Re normal monomorphisms / normal subobjects: I wanted to avoid assuming the existence of a quotient, because the quotient of group schemes is not necessarily representable by a scheme and I believe normal monomorphism only makes sense if the quotient exists?

**Comment by dagurtomas** [comment]
A normal monomorphism is just a morphism which is the kernel of some morphism, a notion which makes sense in any `Grp C`. Is this the same thing?

**Comment by dagurtomas** [comment]
Also, please add the reference and mention the intended application

**Comment by chrisflav** [comment]
What I am saying is that in the context of group schemes, the quotient by a "normal subgroup" does not necessarily exist, in which case I expect that a "normal subgroup" (in the sense defined here) is not necessarily a "normal monomorphism". The converse should be true though.

**Comment by chrisflav** [comment]
I have added the lemma that the map into the kernel of a group morphism is normal. To say it in terms of `Grp`, there is quite a bit of limits API missing for `Grp`, I'll put it on my list.

**Comment by chrisflav** [comment]
In the meantime, I have made #38972 which will help a little.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+    use lift z x ≫ ψ
+    simp [hψ]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean]:
```suggestion
    exact ⟨lift z x ≫ ψ, by simp [hψ]⟩
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+  · intro hnormal
+    have (X : C) (g : X ⟶ G) (h : X ⟶ H) : ∃ (h' : X ⟶ H), h' ≫ φ = g * h ≫ φ * g⁻¹ :=
+      (hnormal X).conj_mem (h ≫ φ) (by simp) g
+    choose h' hh' using this
+    refine ⟨Yoneda.fullyFaithful.preimage ?_, ?_⟩
+    · refine ⟨fun X ↦ ↾fun x ↦ h' _ (x ≫ fst _ _) (x ≫ snd _ _), fun X Y f ↦ ?_⟩
+      ext
+      rw [← cancel_mono φ]
+      simp [hh', comp_mul, comp_inv]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean]:
```suggestion
      simp [← cancel_mono φ, hh', comp_mul, comp_inv]
```

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean [hunk 6]
```diff
@@ -0,0 +1,119 @@
...
+  simp [isNormalHom_iff, conj_eq_snd_of_isCommMonObj]
+
+@[to_additive]
+lemma Normal.of_isPullback_η [IsMonHom φ] {P : C} (p : G ⟶ P) [GrpObj P] [IsMonHom p]
+    (h : IsPullback φ (toUnit _) p η) :
+    Normal φ where
+  mono := h.mono_fst_of_mono
+  exists_comp_eq_conj := by
+    refine ⟨h.lift (G ◁ φ ≫ conj G) (toUnit _) ?_, ?_⟩
+    · simp [conj, mul_comp, comp_mul, inv_comp, mul_comp, h.w, comp_inv, ← Hom.one_def]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Normal.lean]:
```suggestion
    · simp [conj, comp_mul, inv_comp, mul_comp, h.w, comp_inv, ← Hom.one_def]
```

**Comment by dagurtomas** [comment]
Thanks!

maintainer delegate

**Comment by kim-em** [comment]
bors merge
